US08378104B2
Step B: 7-bromo-5-iodo-1,2,3-benzothiadiazol-4-amine
A mixture of 7-bromo-1,2,3-benzothiadiazol-4-amine (80.0 mg, 0.348 mmol) and NIS (117.3 mg, 0.522 mmol) in THF (6 ml) was stirred at RT overnight. The solution was adsorbed onto silica gel and purified by ISCO chromatography (10 to 30% EtOAc:heptane) to afford 95 mg (77%) of the title compound as a yellow solid. 1H NMR (400 MHz, DMSO-d6): δ 6.89 (s, 2 H), 8.05 (s, 1 H).

reactant | 7-bromo-1,2,3-benzothiadiazol-4-amine | 0.348 mmol, 80.0 mg | BrC=1C=CC(=C2N=NSC21)N | C6H4BrN3S
reactant | NIS | 0.522 mmol, 117.3 mg | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 7-bromo-5-iodo-1,2,3-benzothiadiazol-4-amine | 95 mg, 77% | BrC=1C=C(C(=C2N=NSC21)N)I | C6H3BrIN3S
